US04451463
A mixture of 3-amino-1-(4-hydroxybutyl)pyrazole (0.966 g.) and benzoylisothiocyanate (1.0 g.) in acetone (30 ml.) was stirred at room temperature for 18 hours. The solvent was evaporated and the residue purified by column chromatography on silica gel using EtOAc as eluant to give 1-(4-hydroxybutyl)-3-(3-benzoylthioureido)pyrazole (30% yield).

reactant | 3-amino-1-(4-hydroxybutyl)pyrazole | 0.966 g | NC1=NN(C=C1)CCCCO | C7H13N3O
reactant | benzoylisothiocyanate | 1.0 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 1-(4-hydroxybutyl)-3-(3-benzoylthioureido)pyrazole | 30% yield | OCCCCN1N=C(C=C1)NC(=S)NC(C1=CC=CC=C1)=O | C15H18N4O2S
